Name:  ___                   Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: MEDICINE
 
Allergies: 
No Known Allergies / Adverse Drug Reactions
 
Attending: ___.
 
Chief Complaint:
Agitation, Overdose 
 
Major Surgical or Invasive Procedure:
None

 
History of Present Illness:
___ w/ no PMH p/w suicidal attempt with tylenol/benadryl.

She presented to the ED on ___ hour after taking 25 500 mg
acetaminophen pills with combined 25 pills of 25 mg of
diphenhydramine. She took extra strength Tylenol ___. She sent an
email to her friend around 7 ___ and was found around 730 by EMS.
She arrived to the emergency department around 8 ___. Upon
arrival, she was extremely agitated. She needed to be restrained
using chemical restraints of 5 mg haloperidol and 2 mg Ativan 
x2.
She was placed in four-point restraints. After a few minutes, 
she
calmed down and had improvement of her overall agitation.

In the ED, initial vitals were: HR 161 BP 121/84 RR 35 98% RA  
Exam notable for: extremely agitated, PERRLA (5-3mm 
bilaterally),
CTAB, NTTP, no edema, following simple commands
Labs notable for: acetaminophen level of 158, serum ETOH 29,
bicarb 12 on admission, normal LFTs, Cr 1.1, lactate 10, VBG
7.29/34, tylenol level at 0600 ___ was 36 and lactate 2.5.
Poison control and toxicology were consulted and recommended EKG
q4h and NAC if tylenol is positive.
Patient Given: Haldol 5 mg IM x2, Ativan 2 mg IM x2, NAC per
protocol, 1500 mL LR. Still on third NAC dose on transfer to
floor.
Vitals on Transfer: T 99.2 BP 145/90 HR 87 RR 16 99% RA

On the floor, she states that she has been feeling depressed and
suicidal for about 2 weeks and has felt it in the past as well.
She cut herself with a knife 2 weeks ago because she felt
emotionally numb. She denies suicidal attempts in the past or a
history of manic symptoms. She states that she lives in a dorm
room and her relationship with her boyfriend has been ___
recently, possibly prompting her to overdose. She has never been
treated for depression in the past.

Review of systems:  
(+) Per HPI  
(-) Denies fever, chills, night sweats, recent weight loss or
gain. denies headache, sinus tenderness, rhinorrhea or
congestion. Denies cough, shortness of breath. Denies chest pain
or tightness, palpitations. Denies nausea, vomiting, diarrhea,
constipation or abdominal pain. No recent change in bowel or
bladder habits. No dysuria. Denies arthralgias or myalgias.
 
Past Medical History:
Umbilical hernia repair as a child
Seasonal allergies
 
Social History:
___
Family History:
Denies any family history of bipolar, depression, schizophrenia,
or suicidality.
 
Physical Exam:
ADMISSION PHYSICAL EXAM:  
======================
Vital Signs:  
24 HR Data (last updated ___ @ 1634)
    Temp: 99.2 (Tm 99.2), BP: 145/90, HR: 87, RR: 16, O2 sat:
99%, O2 delivery: RA  
General: Alert, oriented, no acute distress  
HEENT: Sclerae anicteric, MMM, oropharynx clear, EOMI, PERRL, 
neck supple, JVP not elevated, no LAD  
CV: Regular rate and rhythm, normal S1 + S2, no murmurs, rubs, 
gallops  
Lungs: Clear to auscultation bilaterally, no wheezes, rales, 
rhonchi  
Abdomen: Soft, non-tender, non-distended, bowel sounds present, 
no organomegaly, no rebound or guarding  
GU: No foley  
Ext: Warm, well perfused, 2+ pulses, no clubbing, cyanosis or 
edema. has signs of self-harm cutting on L wrist
Neuro: CNII-XII intact, ___ strength upper/lower extremities, 
grossly normal sensation, 2+ reflexes bilaterally, gait 
deferred.
Psych: Says she feels "neutral" in regards to her mood. Linear, 
coherent thought process and content. Mild psychomotor agitation 
(moving legs back and forth during exam). Guarded when asked 
about SI. 

DISCHARGE PHYSICAL EXAM:
==========================
Vital Signs:  
___ 1059 Temp: 98.2 PO BP: 132/77 HR: 91 RR: 18 O2 sat: 98% 
O2 delivery: Ra 
General: Alert, oriented, no acute distress  
HEENT: Sclerae anicteric, MMM
CV: Regular rate and rhythm, normal S1 + S2, no murmurs, rubs, 
gallops  
Lungs: Clear to auscultation bilaterally, no wheezes, rales, 
rhonchi  
Abdomen: Soft, non-tender, non-distended, bowel sounds present, 
no organomegaly, no rebound or guarding  
GU: No foley  
Ext: Warm, well perfused, 2+ pulses, no clubbing, cyanosis or 
edema. has signs of self-harm cutting on L wrist
Neuro: CNII-XII intact, ___ strength upper/lower extremities, 
grossly normal sensation, 2+ reflexes bilaterally, gait 
deferred. 
Psych: Arousable to voice. Blunted affect. Answering questions 
appropriately with linear thought process. 
 
Pertinent Results:
ADMISSION LABS:
==============
___ 08:40PM BLOOD WBC-7.0 RBC-4.45 Hgb-13.2 Hct-40.3 MCV-91 
MCH-29.7 MCHC-32.8 RDW-12.4 RDWSD-40.8 Plt ___
___ 08:40PM BLOOD Neuts-59.3 ___ Monos-9.9 Eos-0.1* 
Baso-0.7 Im ___ AbsNeut-4.13 AbsLymp-2.09 AbsMono-0.69 
AbsEos-0.01* AbsBaso-0.05
___ 12:29AM BLOOD ___ PTT-23.4* ___
___ 08:40PM BLOOD Glucose-118* UreaN-9 Creat-1.1 Na-140 
K-3.9 Cl-104 HCO3-12* AnGap-24*
___ 08:40PM BLOOD ALT-8 AST-25 AlkPhos-60 TotBili-0.3
___ 08:40PM BLOOD Albumin-4.2 Calcium-9.2 Phos-2.9 Mg-2.0
___ 08:40PM BLOOD ASA-NEG Ethanol-29* Acetmnp-158* 
Tricycl-NEG
___ 08:48PM BLOOD ___ pO2-88 pCO2-28* pH-7.31* 
calTCO2-15* Base XS--10
___ 08:48PM BLOOD Lactate-10.0* K-3.5
___ 09:21PM URINE Color-Straw Appear-Clear Sp ___
___ 09:21PM URINE Blood-NEG Nitrite-NEG Protein-TR* 
Glucose-NEG Ketone-NEG Bilirub-NEG Urobiln-NEG pH-6.5 Leuks-NEG
___ 09:21PM URINE RBC-<1 WBC-1 Bacteri-FEW* Yeast-NONE 
Epi-<1
___ 09:21PM URINE CastHy-10*
___ 09:21PM URINE Mucous-FEW*
___ 09:21PM URINE bnzodzp-NEG barbitr-NEG opiates-NEG 
cocaine-NEG amphetm-NEG oxycodn-NEG mthdone-NEG
___ 09:21PM URINE UCG-NEGATIVE
___ 09:21PM URINE Hours-RANDOM

INTERIM LABS:
===========
___ 12:29AM BLOOD ASA-NEG Ethanol-NEG Acetmnp-124* 
Tricycl-NEG
___ 06:32AM BLOOD ASA-NEG Ethanol-NEG Acetmnp-36* 
Tricycl-NEG
___ 05:30PM BLOOD Acetmnp-NEG
___ 12:29AM BLOOD Lactate-2.5*

DISCHARGE LABS:
=============
___ 05:30PM   GLUCOSE-113* UREA N-4* CREAT-0.8 SODIUM-145 
POTASSIUM-3.7 CHLORIDE-109* TOTAL CO2-22 ANION GAP-14
___ 05:30PM   ALT(SGPT)-7 AST(SGOT)-18 LD(LDH)-164 ALK 
PHOS-49 TOT BILI-0.4
___ 05:30PM   ALBUMIN-3.6 CALCIUM-8.9 PHOSPHATE-2.6* 
MAGNESIUM-2.___ yo F with an unremarkable PMHx who presented after a suicide 
attempt via Tylenol and Benadryl overdose.  Patient ingested 25 
x ___ mg Tylenol ER tablets and 25 x 25 mg of Benadryl. She 
reported depression and intentional overdose/suicide attempt.  
She had a lactic acidosis of 10 at admission with an initial 
Tylenol level of 158.  Her EKGs were unremarkable.  She did not 
show any signs of liver injury. She completed the ___ protocol 
with normalization of her acetaminophen level. 

Psychiatry was consulted and recommended transfer to inpatient 
psychiatry facility.  She was subsequently placed and 
transferred to ___.

#TRANSITIONAL ISSUES:
===================
-Continue psych management 
-Code status: Full
-Contact: ___ ___ Mother 
 
___ on ___:
The Preadmission Medication list is accurate and complete.
1. This patient is not taking any preadmission medications

 
Discharge Medications:
NONE
 
Discharge Disposition:
Extended Care
 
Facility:
___
 
Discharge Diagnosis:
Primary diagnosis:
Tylenol overdose
Benadryl overdose
Depression

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
Dear ___,

You were admitted for an overdose and were given an antidote to 
prevent liver damage. You will go to an inpatient psychiatric 
facility for further management. Please take your medications as 
directed and follow-up with your physicians.

It was a pleasure caring for you,

-___ medical care team
 
Followup Instructions:
___